Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
TACE
 
Major Surgical or Invasive Procedure:
TACE ___

 
History of Present Illness:
CHIEF COMPLAINT: ___ s/p TACE

___ h/o HCC, HBV, and alcohol-induced cirrhosis s/p partial 
hepatectomy in ___ ___ and TACE (x2 in ___, x1 in ___ 
being admitted for observation and CT in the morning s/p TACE 
today at ___. Patient reports feeling well with only minimal RUQ 
pain, which he says is not worse than baseline. His appetite is 
good, as he is already eating some take-out food brought to him 
by his daughter.  He denies fevers, chills, nausea, vomiting, 
chest pain, shortness of breath. Comprehensive 10-point ROS is 
otherwise negative.
 
Past Medical History:
Per OMR, confirmed with pt's daughter:
HBV/EtOH induced cirrhosis c/b ___ s/p partial
hepatectomy (original tumor size 4 cm) on ___ in ___ s/p
TACE ___. No systemic chemo in the past. F/u MRI on ___
with 2.1 x 2.2 cm seg ___ lesion in additional to mild
intrahepatic bile duct prominence. 
 
Social History:
___
Family History:
No family history of liver disease
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vital signs: T 99.9, BP 114/69, P 91, RR 16, O2 100% RA 
Gen: Well appearing, in no apparent distress
HEENT: NCAT, oropharynx clear
Lymph: no cervical lymphadenopathy
CV: No JVD present, regular rate and rhythm, no murmurs 
appreciated
Resp: CTA bilaterally in anterior and posterior lung fields, no 
increased work of breathing
GI: Scar from prior liver resection, non-tender, non-distended
GU: No suprapubic tenderness
Extremities: no clubbing, cyanosis, or edema
Neuro: no focal neurologic deficits appreciated. Moves all 4 
extremities purposefully and without incident, no facial droop.
Psych: Euthymic, speech non-tangential, appropriate

DISCHARGE PHYSICAL EXAM
-Vitals: reviewed
-General: no acute distress, laying comfortably in bed
-HEENT: moist mucus membranes, anicteric sclera
-Cardio: RRR, no murmur
-Pulm: clear b/l, no wheeze
-Abdomen: soft, contender, non distended, bowel sounds present
-Extremities: no pedal edema
-Neuro: no focal neurological deficits, AAOx3
 
Pertinent Results:
___ 07:20AM   WBC-5.4 RBC-4.43* HGB-13.6* HCT-40.8 MCV-92 
MCH-30.7 MCHC-33.3 RDW-14.6 RDWSD-48.9*
___ 07:20AM   ALT(SGPT)-68* AST(SGOT)-83* ALK PHOS-269* TOT 
BILI-0.7
___ 07:20AM   CREAT-0.9 POTASSIUM-4.___ h/o HCC, HBV, and alcohol-induced cirrhosis s/p partial 
hepatectomy in ___ ___ and TACE (x2 in ___, x1 in ___ 
being admitted for observation and CT in the morning s/p TACE 
today at ___.

HCC, HBV, EtOH abuse s/p TACE
Patient has had multiple TACE procedures and partial 
hepatectomy.  He was admitted for close monitoring following 
TACE as per ___.  During admission he was afebrile, nontoxic, and 
without pain.  CT abdomen reviewed by ___ who agree with 
discharge.  Patient should continue Ciprofloxacin 500mg 
bid/flagyl 500mg bid for 2 weeks post procedure and pantoprazole 
for 10 days (in setting of small amount of non-targeted 
embolization of L gastric artery) as per ___.  Patient will 
follow up with oncology and ___ outpatient.  For HBV continue 
entecavir. 

>30 minutes spent on discharge planning 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. entecavir 0.5 mg oral DAILY 
2. OxyCODONE (Immediate Release) 2.5 mg PO Q4H:PRN pain 
3. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
4. MetroNIDAZOLE 500 mg PO BID 
5. Ciprofloxacin HCl 500 mg PO Q12H 
6. Acetaminophen 500 mg PO Q8H:PRN Pain - Mild
 
Discharge Medications:
1.  Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth daily Disp #*10 
Tablet Refills:*0 
2.  Acetaminophen 500 mg PO Q8H:PRN Pain - Mild  
3.  Ciprofloxacin HCl 500 mg PO Q12H  
4.  entecavir 0.5 mg oral DAILY  
5.  MetroNIDAZOLE 500 mg PO BID  
6.  OxyCODONE (Immediate Release) 2.5 mg PO Q4H:PRN pain  
7.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
TACE procedure 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 
You were admitted for close observation following TACE 
procedure.  Your labs and vitals following the procedure were 
okay and it is okay for you to go home and follow up with 
interventional radiology as an outpatient.  If you have fever or 
sweats please return to the ED.
 
Followup Instructions:
___